US08207168B2
A mixture of 5-(4-hydroxyphenyl)-6-methyl-2-pyridin-2-yl-2H-pyridazin-3-one (97.7 g, 28 mmol), t-butyl 4-methanesulfonyloxypiperidine-1-carboxylic acid ester (15 g, 55 mmol) and cesium carbonate (18 g, 55 mmol) in 75 mL of DMF was stirred at 100° C. overnight. The reaction mixture was cooled to rt, filtered through celite, and concentrated. The crude product was diluted with 100 mL of CH2Cl2, washed with 2N NaCO3, water, NaCl solution, then dried over Na2SO4, and concentrated. The product was purified by flash chromatography (5% MeOH in CH2Cl2) and triturated with EtOAc and hexane to give 4-[4-(3-methyl-6-oxo-1-pyridin-2-yl-1,6-dihydropyridazin-4-yl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester (6.7 g, 72%): MS m/z 463 (M+H).

reactant | 5-(4-hydroxyphenyl)-6-methyl-2-pyridin-2-yl-2H-pyridazin-3-one | 28 mmol, 97.7 g | OC1=CC=C(C=C1)C1=CC(N(N=C1C)C1=NC=CC=C1)=O | C16H13N3O2
reactant | cesium carbonate | 55 mmol, 18 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 4-[4-(3-methyl-6-oxo-1-pyridin-2-yl-1,6-dihydropyridazin-4-yl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester | 6.7 g, 72% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C=1C(=NN(C(C1)=O)C1=NC=CC=C1)C | C26H30N4O4
